* D:\allen\UP Files\4th Year (2016-2017)\1st Sem\EEE 54\dp2\schmitt6.wxsch
*#SIMETRIX
X1 R12_N X1_out VCC VEE X1_out LM2902/NS pinnames: inp inn vsp vsn out
X$V1 V1_P 0 SAW_SOURCE pinnames: P N params: _V1=-10 _V2=0 _FREQ=1.5k _DELAY=0 _DRATIOx100=99.9 _T_RISE=666u _T_FALL=666.66667n _DAMP_COEF=0 _PWIDTH=0 _OFF_UNTIL_DELAY=0 _IDLE_IN_POP=0 _USEPHASE=0 _PHASE=0
X2 X2_inp 0 VCC VEE R3_P TL084 pinnames: inp inn vsp vsn out
V2 0 VEE 12
X3 R4_P R7_N VCC VEE R7_P TL084 pinnames: inp inn vsp vsn out
R1 R3_P D1_P 20k
V3 VCC 0 12
R2 X2_inp R7_P 10k
X$V4 V4_P 0 SIN_SOURCE pinnames: P N params: _V1=-14 _V2=4 _FREQ=6.5k _DELAY=0 _DRATIOx100=50 _T_RISE=0 _T_FALL=0 _DAMP_COEF=0 _PWIDTH=0 _OFF_UNTIL_DELAY=0 _IDLE_IN_POP=0 _USEPHASE=0 _PHASE=0
R3 R3_P D2_N 20k
R4 R4_P V1_P 10k
R5 R4_P 0 10k
R6 R7_N X1_out 10k
R7 R7_P R7_N 10k
D1 D1_P X2_inp D1N4148
D2 X2_inp D2_N D1N4148
R9 R12_N 0 5k
R12 VEE R12_N 7k
.TRAN 1u 500m
.OPTIONS noraw

